US05457124
A solution of 9.74 g (ca. 20 mmol) of rac-2-(4-ethoxy-4-oxobutoxy)-6-[6-[(tetrahydro-2H-pyran-2-yl)oxy]hexyl]benzenepropanoic acid methyl ester from the preceding example, and 0.53 g of p-toluenesulfonic acid monohydrate, in 270 mL of methanol was stirred and refluxed for 21.5 hr. Most of the solvent was removed in vacuo and the residue was dissolved in ether. The ether solution was washed with saturated sodium bicarbonate solution and processed in the usual manner giving an oil. This material was chromatographed on 200 g of silica gel, eluting with hexane-ethyl acetate mixtures. There was obtained 7.03 g (92.5%) of 2-(6-hydroxyhexyl)-6-(4-methoxy-4-oxobutoxy)benzenepropanoic acid methyl ester as a colorless oil.

reactant | rac-2-(4-ethoxy-4-oxobutoxy)-6-[6-[(tetrahydro-2H-pyran-2-yl)oxy]hexyl]benzenepropanoic acid methyl ester | ca. 20 mmol, 9.74 g | COC(CCC1=C(C=CC=C1CCCCCCOC1OCCCC1)OCCCC(=O)OCC)=O | C27H42O7
reactant | p-toluenesulfonic acid monohydrate | 0.53 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 270 mL | CO | CH4O
product | 2-(6-hydroxyhexyl)-6-(4-methoxy-4-oxobutoxy)benzenepropanoic acid methyl ester | 7.03 g, 92.5% | COC(CCC1=C(C=CC=C1OCCCC(=O)OC)CCCCCCO)=O | C21H32O6
